US05703098
3-Amino-3-(3',4'-dimethoxyphenyl)-propan-1-ol
A solution of 3-amino-3-(3',4'-dimethoxyphenyl)-propionate (4.12 grams, 17.2 mmol) in methanol (50 milliliters) was slowly added to stirred sodium borohydride (6.51 grams, 17.2 mmol). After the initial effervescence had ceased the mixture was refluxed for 1 hour. Reaction progress was monitored by TLC (20% ethyl acetate/hexane, uv) and was complete after 1 hour. The reaction mixture was allowed to cool and then 20 milliliters of water was added. The methanol was removed in vacuo resulting in the formation of a gum which was extracted into methylene chloride (3×20 milliliters). The combined extracts were dried over magnesium sulfate and concentrated to afford an oil which was refrigerated. A waxy solid formed which was dried in vacuo (60° C.,<1 mm) to afford 3.30 g (86%) of the product as a white solid. 1H NMR (CDCl13)δ6.91-6.78(m, 3H), 4.15-4.04(m, 1H), 3.89(s, 3H), 3.88(s, 3H), 3.84-3.71(s, 2H), 3.91-2.45(broad m, 1H), 1.95-1.78(m, 2H).

reactant | 3-amino-3-(3',4'-dimethoxyphenyl)-propionate | 17.2 mmol, 4.12 grams | NC(CC(=O)[O-])C1=CC(=C(C=C1)OC)OC
reactant | sodium borohydride | 17.2 mmol, 6.51 grams | [BH4-].[Na+]
reactant | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
reactant | water | 20 milliliters | O | H2O
solvent | methanol | 50 milliliters | CO | CH4O
product | 3-Amino-3-(3',4'-dimethoxyphenyl)-propan-1-ol | 3.30 g, 86% | NC(CCO)C1=CC(=C(C=C1)OC)OC | C11H17NO3
